US07101891B2
5-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester
Add a solution of LiOH (370 mg, 15.5 mmol) in water (50 mL) to a solution of 5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolinyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.5 g, 3.1 mmol) in dioxane (50 mL). Stir 4 H at room temperature and concentrate to dryness. Partition between 20% iPrOH/CHCl3 and water. Acidify to pH 1 with 5N HCl. Extract 2× with 20% iPrO/CHCl3. Wash combined organics with brine, dry over Na2SO4, filter, and concentrate to dryness to afford the title compound (1.43 g, 100%) as a yellow foam as a mixture of cis isomers. MS(IS) 460.4 (M−1); TLC (10% MeOH/CHCl3) Rf=0.31.

reactant | LiOH | 15.5 mmol, 370 mg | [Li+].[OH-]
reactant | 5-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolinyl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 3.1 mmol, 1.5 g | C(C)OC(=O)C1CN(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)C(=O)OC(C)(C)C | C24H28ClN3O6
solvent | water | 50 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 5-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 1.43 g, 100% | C(C)(C)(C)OC(=O)N1CC(CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)C(=O)O | C22H24ClN3O6
